US03932661
Preparation of p-nitrobenzoyl chloride phenylhydrazone
A quantity (12.86 g., 0.05 mole) of p-nitrobenzoic acid phenylhydrazide, prepared according to the method described by J. Hausknecht, Chem. Ber. 22, p. 324 (1889), was added to a suspension of 10.41 g. (0.05 mole) phosphorus pentachloride in 75 ml. carbon tetrachloride, and the resulting suspension was heated to the reflux temperature. Heating at the reflux temperature was continued until evolution of hydrogen chloride gas ceased. After cooling the reaction mixture to about 25° C., it was poured into an ice-cold suspension of 15.5 g. (0.17 mole) of phenol in 50 ml. carbon tetrachloride. When the reaction between the phenol and the p-nitrobenzoyl chloride (dichlorophosphinyl)phenylhydrazone intermediate was completed, the carbon tetrachloride solvent and other volatile components were removed by evaporation under reduced pressure at 30° C. The resulting suspension of p-nitrobenzoyl chloride phenylhydrazone in triphenyl phosphate was filtered and the filter cake comprising the p-nitrobenzoyl chloride phenylhydrazone was washed with 100 ml. carbon tetrachloride, 50 ml. methanol, and 50 ml. ether. The solid on the filter was recrystallized from a solvent mixture consisting of 100 ml. benzene and 300 ml. naphtha (boiling range 203° to 212° F.). There was thus obtained 4.10 g. of p-nitrobenzoyl chloride phenylhydrazone having a melting point of 156° to 157.5° C. A second recrystallization from a mixture of benzene and Skellysolve C gave the compound melting at 157° to 158.5°C.

reactant | p-nitrobenzoic acid phenylhydrazide | 0.05 mole, 12.86 g | C1(=CC=CC=C1)N(N)C(C1=CC=C(C=C1)[N+](=O)[O-])=O | C13H11N3O3
reactant | phosphorus pentachloride | 0.05 mole | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | hydrogen chloride | Cl | ClH
reactant | phenol | 0.17 mole | C1(=CC=CC=C1)O | C6H6O
reactant | p-nitrobenzoyl chloride (dichlorophosphinyl)phenylhydrazone | ClP(=O)(Cl)N(N=C(C1=CC=C(C=C1)[N+](=O)[O-])Cl)C1=CC=CC=C1 | C13H9Cl3N3O3P
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | p-nitrobenzoyl chloride phenylhydrazone | C1(=CC=CC=C1)NN=C(C1=CC=C(C=C1)[N+](=O)[O-])Cl | C13H10ClN3O2
